US07981900B2
1-(1-Azidobutyl)-4-(trifluoromethyl)benzene
A solution of 1-[4(trifluoromethyl)phenyl]butan-1-ol (1.4 g, 6.4 mmol) and diphenylphosphoryl azide (2.8 ml, 12.8 mmol) in THF (6 mL) cooled to −10° C. under N2 was treated with DBU (1.9 mL, 12.8 mmol). The resulting solution was stirred at room temperature for 20 hours and then diluted with a mixture of ether and H2O. The organic phase was dried and concentrated and the residue purified by column chromatography using hexane:ethyl acetate (10:1) as eluent to furnish pure azide (0.85 g, 54%).

reactant | 1-[4(trifluoromethyl)phenyl]butan-1-ol | 6.4 mmol, 1.4 g | FC(C1=CC=C(C=C1)C(CCC)O)(F)F | C11H13F3O
reactant | diphenylphosphoryl azide | 12.8 mmol, 2.8 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | DBU | 12.8 mmol, 1.9 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | H2O | O | H2O
product | 1-(1-Azidobutyl)-4-(trifluoromethyl)benzene | 0.85 g, 54% | N(=[N+]=[N-])C(CCC)C1=CC=C(C=C1)C(F)(F)F | C11H12F3N3
